* Absolute Minimal AD633 Analog Multiplier Model
* Just implements core function: W = (X1-X2)*(Y1-Y2)/10 + Z
*
* Node assignments
*             X1
*             |  X2
*             |  |  Y1
*             |  |  |  Y2
*             |  |  |  |  VNEG
*             |  |  |  |  |  Z
*             |  |  |  |  |  |  W
*             |  |  |  |  |  |  |  VPOS
*             |  |  |  |  |  |  |  |
.SUBCKT AD633 1  2  3  4  5  6  7  8
*
* Minimum required input impedances
* Core multiplication and sum function
* Step 1: X1-X2 differential
EX 11 0 1 2 1
* Step 2: Y1-Y2 differential
EY 12 0 3 4 1
* Step 3: (X1-X2)*(Y1-Y2)/10 
EMULT 13 0 POLY(2) 11 0 12 0 0 0 0 0 0.1
* Step 4: Z input
* Step 5: Add Z to multiplication result
ESUM 14 0 POLY(2) 13 0 6 0 0 1 1
* Step 6: Output to W
ROUT 14 7 10
*
.ENDS AD633
